US05250669
(1) Synthesis of 1,9-diphenyl-4,6-nonanedione
Using 2,4-pentandione (93.8 g, 0.94 mol) and β-phenethyl bromide (405 g), the reaction was carried out in the same manner as described in Example 17, (1), and the crude product (350 g) was purified by column chromatography on silica gel (Wako Gel C-200, manufactured by Wako Pure Chemical Industries, Ltd.) with benzene as eluent to give the title compound as a pale yellow oil which was an ca 1:5 mixture of Keto/Enol as seen by the methylene singlet at δ3.43 ppm and the methine singlet at δ5.42 ppm in the 1HNMR spectrum; yield: 66.9 g.

reactant | 2,4-pentandione | 0.94 mol, 93.8 g | CC(CC(C)=O)=O | C5H8O2
reactant | β-phenethyl bromide | 405 g | C1=CC=C(C=C1)CCBr | C8H9Br
product | 1,9-diphenyl-4,6-nonanedione | C1(=CC=CC=C1)CCCC(CC(CCCC1=CC=CC=C1)=O)=O | C21H24O2
